US04179505
To a stirred mixture of 6.2 parts of 2-propyl-1H-benzimidazole-5-methanol and 38 parts of trichloromethane are added dropwise 40 parts of thionyl chloride. Upon completion, stirring is continued for 15 minutes at reflux temperature. The solvent is evaporated and the residue is dissolved in 80 parts of 2-propanone. The product is allowed to crystallize. It is filtered off and dried, yielding 4.3 parts of 5-(chloromethyl)-2-propyl-1H-benzimidazole monohydrochloride.

reactant | 2-propyl-1H-benzimidazole-5-methanol | C(CC)C1=NC2=C(N1)C=CC(=C2)CO | C11H14N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-(chloromethyl)-2-propyl-1H-benzimidazole monohydrochloride | Cl.ClCC1=CC2=C(NC(=N2)CCC)C=C1 | InChI=1S/C11H13ClN2.ClH/c1-2-3-11-13-9-5-4-8(7-12)6-10(9)14-11;/h4-6H,2-3,7H2,1H3,(H,13,14);1H
